US08912169B2
Step 3: Synthesis of (R)-2-hydroxy-3-(3-hydroxy-2-(trans-4-(2-(methylamino)ethylamino)cyclohexyl)propanamido)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 3-((2R)-2-(2-(trans-4-(tert-butoxycarbonyl(2-(tert-butoxycarbonyl(methyl)amino)ethyl)amino)cyclohexyl)-3-hydroxypropanamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate and BCl3 following the procedure described in Step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 434 (MH)+.

reactant | tert-butyl 3-((2R)-2-(2-(trans-4-(tert-butoxycarbonyl(2-(tert-butoxycarbonyl(methyl)amino)ethyl)amino)cyclohexyl)-3-hydroxypropanamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(C(=O)N[C@@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C)CO)CCN(C)C(=O)OC(C)(C)C | C46H74BN3O11
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-2-hydroxy-3-(3-hydroxy-2-(trans-4-(2-(methylamino)ethylamino)cyclohexyl)propanamido)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(C(CO)[C@@H]1CC[C@H](CC1)NCCNC)=O)C=CC=C2C(=O)O | C21H32BN3O6
